US07897612B2
N-[(4-hydroxy-2-oxo-1,2-dihydro-1,7-naphthyridin-3-yl)carbonyl]glycine
A solution of ethyl 3-aminoisonicotinate (0.071 g, 0.43 mmol) in methylene chloride (2.0 mL) was treated with triethylamine (1.00 mL, 7.17 mmol) followed by ethyl malonyl chloride (0.060 mL, 0.47 mmol). The mixture was stirred overnight at ambient temperature, followed by concentration in vacuo. The residue was dissolved in ethanol (2.0 mL), treated with sodium ethoxide (0.158 mL, 0.43 mmol, 21% solution in ethanol) at ambient temperature, and stirred overnight. The solution was concentrated in vacuo, and the resulting residue was dissolved in ethanol (2.0 mL) and treated with glycine sodium salt (0.030 g, 0.43 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.060 mL, 0.43 mmol) and heated to 180° C. for 30 min. in a Biotage Initiator microwave synthesizer. The reaction was diluted with water, acidified with 1 N aqueous hydrochloric acid, and the resulting precipitate was filtered, washed with water, and dried in vacuo to afford the title compound as a light brown solid (0.034 g, 30%). 1H NMR (400 MHz, DMSO-d6 δ ppm 12.4 (s, 2H), 10.4 (s, 2H), 8.88 (s, 1H), 7.89 (s, 1H), 4.15 (d, J=5.6 Hz, 2H). MS(ES+) m/e 264 [M+H]+.

reactant | ethyl 3-aminoisonicotinate | 0.43 mmol, 0.071 g | NC1=C(C(=O)OCC)C=CN=C1 | C8H10N2O2
reactant | triethylamine | 7.17 mmol, 1.00 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl malonyl chloride | 0.47 mmol, 0.060 mL | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | sodium ethoxide | 0.43 mmol, 0.158 mL | [O-]CC.[Na+]
reactant | glycine sodium salt | 0.43 mmol, 0.030 g | [Na+].NCC(=O)[O-]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.43 mmol, 0.060 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[(4-hydroxy-2-oxo-1,2-dihydro-1,7-naphthyridin-3-yl)carbonyl]glycine | 0.034 g, 30% | OC1=C(C(NC2=CN=CC=C12)=O)C(=O)NCC(=O)O | C11H9N3O5
